US05728686
[1-(1,3-Dibutylxanthin-7-yl)methyl]dimethylphosphine Oxide
5 g (0.01 9 mol) of 1,3-dibutylxanthine were stirred at 80° C. for 6 hours with 2.88 g (0.0228 mol) of chloromethyldimethylphosphine oxide and 3.2 g (0.0228 mol) of potassium carbonate in 80 ml of DMF. The solution was cooled to room temperature and filtered, and the filtrate was concentrated under reduced pressure. The residue which remained was crystallized in petroleum ether/ethyl acetate.

reactant | 1,3-dibutylxanthine | 9 mol, 5 g | C(CCC)N1C(=O)N(C=2N=CNC2C1=O)CCCC | C13H20N4O2
reactant | chloromethyldimethylphosphine oxide | 0.0228 mol, 2.88 g | ClCP(C)(C)=O | C3H8ClOP
reactant | potassium carbonate | 0.0228 mol, 3.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | [1-(1,3-Dibutylxanthin-7-yl)methyl]dimethylphosphine Oxide | C(CCC)N1C(=O)N(C=2N=CN(C2C1=O)CP(C)(C)=O)CCCC | C16H27N4O3P
